US07612075B2
A. 4-(4-Cyanobenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester.
To a solution of 3-oxo-piperazine-1-carboxylic acid benzyl ester (3.0 g, 12.8 mmol) and 4-bromomethyl tolylnitrile (2.76 g, 14.1 mmol) in 135 mL of THF and 15 mL of DMF at 0° C. is added a 60% dispersion in mineral oil of NaH (0.49 g, 12.8 mmol). After 5 hours, the solution is diluted with saturated NH4Cl and EtOAc. The organic layer is washed with H2O and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography over silcia gel eluting with 20% EtOAc/CH2Cl2. The title compound is obtained as a white solid (4.01 g, 11.4 mmol). 1H NMR (CDCl3, 300 MHz) δ7.62 (d, 2H), 7.39 (m, 7H), 5.14 (s, 2H), 4.68 (s, 2H), 4.27 (s, 2H), 3.73 (m, 2H), 3.30 (m, 2H).

reactant | 3-oxo-piperazine-1-carboxylic acid benzyl ester | 12.8 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | NaH | 12.8 mmol, 0.49 g | [H-].[Na+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | THF | 135 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-Cyanobenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)=O | C20H19N3O3
